US07834051B2
2-fluoro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile
Using 3,3,5-trimethylpyrrolidine-2,4-dione (400 mg), 4-bromo-2-fluoro-3-methylbenzonitrile (667 mg), cesium carbonate (1.39 g), tris(dibenzylideneacetone)dipalladium(0) (130 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (246 mg), and in the same manner as in Reference Example 18, the title compound was obtained as colorless crystals (yield: 137 mg, 18%).

reactant | 3,3,5-trimethylpyrrolidine-2,4-dione | 400 mg | CC1(C(NC(C1=O)C)=O)C | C7H11NO2
reactant | 4-bromo-2-fluoro-3-methylbenzonitrile | 667 mg | BrC1=C(C(=C(C#N)C=C1)F)C | C8H5BrFN
reactant | cesium carbonate | 1.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 246 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 130 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-fluoro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | FC1=C(C#N)C=CC(=C1C)N1C(C(C(C1C)=O)(C)C)=O | C15H15FN2O2
